Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Codeine
 
Attending: ___.
 
Chief Complaint:
cough, dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is an ___ y.o female  with MMP, h.o asthma, afib on coumadin, 
h.o CHF who reports recent, SOB, rhinorrhea, and scratchy 
throat. In addition, she reports 2 days of weakness and fatigue.
.
Pt reports ___ days of SOB, mild orthopnea, chills, occasional 
palpitations but actually denied fever, sick contacts, cough, 
ST, CP, myalgias, joint pain, change in appetite, headache, but 
did report generalized weakness. In addition, the patient denies 
blurred vison/abdominal pain/n/v/d/c/melena/ 
brbpr/dysuria/hematuria/rash/paresthesias/numbness/decreased 
appetite. Pt states her symptoms appear to be similar to prior 
exacerbations of asthma. 
.
However, called pt's daughter ___ (___) to 
verify history. She states that her mother was recently admitted 
to ___ ___ for CHF. She states that her mother appeared 
well on ___, then ___ noticed fever to 100, congested voice, 
cough and SOB. Pt's ___ does not report that her mother 
appears edematous or has gained weight as in prior CHF 
exacerbations. She did not appear to have edema like her 
admission to ___ per her the daughter.
.
IN the ED, 
Initial vitals
Time Pain Temp HR BP RR Pox 
09:40 0 98.1 80 111/62 24 96%  
last vitals 98.2, HR 70, 109/56, 18 100% on 4L. Per report by 
EMS her initial RA sat was 81%, but improved to 96% with 4L NC. 
CXR was suggestive of retrocardiac opacity and pt was given a 
dose of levoquin. ED reports that pt has been afebrile there, 
but did not have signs of fluid overload-BNP 4000
 
 
Past Medical History:
afib
asthma
h.o CHF with hospitalization for exacerbation-unknown EF
pacemaker placed in ___
dementia -baseline AAOX1 per daugther

denies HTN, DM
 
Social History:
___
Family History:
Pt denies any medical problems in the family including cancer or 
heart disease
 
Physical Exam:
Admission:
GEN: lying in the bed, NAD, cooperative
vitals- T.  BP 138/60, HR 
HEENT-nc/at, perrla, eomi, anicteric, MMM
neck-supple, no JVD while lying at less than 45deg
chest-b/l ae, +diffuse wheezing b/l, decreased air movement, no 
c/r
heart-irreg rate, no m/r/g
abd-+bs, soft, NT, ND, no guarding or rebound
ext-no c/c/ 1+pitting edema b/l
neuro-AAOx2 (self-hospital), CN2-12 intact, motor ___ x4, 
sensation equal and intact to LT, no tremor
psych-calm, cooperative
 
Pertinent Results:
___ 10:15AM BLOOD WBC-7.9 RBC-4.33 Hgb-13.3 Hct-39.5 MCV-91 
MCH-30.8 MCHC-33.7 RDW-13.9 Plt ___
___ 07:10AM BLOOD WBC-7.0 RBC-3.98* Hgb-12.2 Hct-36.6 
MCV-92 MCH-30.6 MCHC-33.3 RDW-13.8 Plt ___
___ 10:15AM BLOOD Glucose-147* UreaN-20 Creat-1.1 Na-139 
K-3.8 Cl-100 HCO3-27 AnGap-16
___ 07:10AM BLOOD Glucose-79 UreaN-26* Creat-1.2* Na-142 
K-3.8 Cl-100 HCO3-35* AnGap-11
___ 10:15AM BLOOD CK-MB-1 proBNP-4393*
___ 10:15AM BLOOD cTropnT-0.02*
___ 07:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:10AM BLOOD Calcium-9.2 Phos-4.1 Mg-2.3
___ 10:15AM BLOOD Digoxin-1.9
___ 12:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 12:10PM URINE Blood-NEG Nitrite-NEG Protein-75 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-1 pH-5.0 Leuks-TR
___ 12:10PM URINE ___ Bacteri-FEW Yeast-NONE 
___

___ Blood Culture, Routine-PENDING 
___ Blood Culture, Routine-PENDING 

___ IMPRESSION: No evidence of DVT. 

CHEST (PA & LAT) IMPRESSION: No evidence of pneumonia.

 
Brief Hospital Course:
___ y.o female with h.o asthma, afib on coumadin, who presented 
with fatigue, weakness, dyspnea and cough, was found to have 
extensive wheezing c/w an acute asthma exacerbation in the 
setting of a probable viral infection.  
.  
.  
#Viral bronchitis with acute asthma exacerbation-
Pt reports a h.o asthma and CHF. However, her clinical history 
of sore throat, cough and generalized weakness was suggestive of 
an infectious process. She reported T to 100 at home, but was 
afebrile without a leukocytosis throughout her hospitalization. 
CXR final read was negative for pneumonia.
She was initially treated with Levofloxacin, albuterol, 
atrovent, and steroids.  There was initially some concern that 
the patient may have an underlying pneumonia, however after 
further evaluation, this was thought less likely, and 
antibiotics were discontinued.  She was treated with scheduled 
albuterol/Ipratropium nebulizers with symptomatic benefit.  As 
she continued to improve, the frequency was decreased, and later 
changed to a scheduled Combivent MDI.  Her prednisone was 
started at 60 mg, however this was rapidly tapered down to 20 mg 
(and levofloxacin was discontinued), when she began to develop 
bilateral calf pain with ambulation that was concerning for an 
___ tendinopathy.  She was continued on her home accolate. 
 
Her BNP was elevated on admission, but her presentation was not 
thought represent acute CHF given her euvolmic appearance. 
Additionally, she was trialed with a single dose of IV lasix, 
which did not improve her respiratory status, but did cause a 
slight elevation in her BUN/Cr.
At the time of discharge, she was satting approx 94% on room 
air, but she required 2 L NC with ambulation for desaturations 
to 85%.  Her lung exam at discharge is notable for diffuse 
wheezing, with fair to good air exchange; this is significantly 
improved from admission.
Please note that the patient is on Advair BID at home. This is 
currently being held due to the acute exacerbation, but it 
should be resumed once the acute flare has resolved.
.  
#history of CHF-unknown EF. 
Pt has a known history of CHF, and she was recently hospitalized 
for a CHF exacerbation at another hospital prior to admission. 
She did not appear to be in CHF during this admission, despite 
an elevated BNP on admission. She was trialed with a single dose 
of IV lasix during the admission, which resulted in a slight 
increase in her BUN/Cr, suggesting that she is not volume 
overloaded.  She was continued on her home dose of lasix.
.  
# ___ tendonitis  
Pt was noted to develop bilat calf pain with ambulation with ___ 
on ___. ___ was negative for DVT. Pt is slightly tender to 
palpation at area of insertion of tendon to calf muscle. Pt at 
risk for ___ tendonitis given age, steroids, and 
levofloxacin.  Levofloxacin was immediately discontinued, and 
prednisone was rapidly tapered.  Pt's activity was restricted to 
levels that minimized calf discomfort, to minimize the strain 
and risk for tendon rupture.  At the time of discharge, pt 
reports that the pain has been improving, and is only rated as 
"very mild".
.  
#atrial fibrillation.  
No longer on coumadin per patient.  
-continued verapamil 240mg daily  
-continued asa 325mg  
- digoxin was resumed at discharge. 
.  
.  
#Dementia-continued aricept, namenda  
.  
#depression- continued Celexa 20 mg Tab Oral daily  
.  
.  
CODE: FULL  
.  
Dispo: discharged to rehab for continuing treatment with 
bronchodialators and oxygen.
 
Medications on Admission:
___ Aspirin 325 mg Tab Oral daily
Celexa 20 mg Tab Oral daily
digoxin 125 mcg Tab Oral daily
Aricept 5 mg Tab Oral daily
Advair Diskus 250 mcg-50 mcg/dose for Inhalation Inhalation BID
Lasix 40 mg Tab Oral BID
Namenda 10 mg Tab Oral daily
Zocor 20 mg Tab Oral daily
verapamil SR 240 mg 24 hr Cap Oral daily
Accolate 20 mg Tab Oral BID

 

 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
4. verapamil 240 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q24H (every 24 hours).  
5. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. zafirlukast 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
7. donepezil 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
8. digoxin 125 mcg Tablet Sig: One (1) Tablet PO once a day.  
9. furosemide 40 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
10. Namenda 10 mg Tablet Sig: One (1) Tablet PO once a day.  
11. prednisone 10 mg Tablet Sig: taper as directed Tablet PO 
once a day for 12 days: 2 tabs po q day x 4 days; then 1 tab po 
q day x 4 days; then ___ tab po q day x 4 days; then stop.  
12. ipratropium-albuterol ___ mcg/Actuation Aerosol Sig: Two 
(2) Puff Inhalation Q6H (every 6 hours) for 7 days: scheduled x 
1 week. ___ change to prn after acute flare resolved.  
13. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation every ___ hours as 
needed for wheeze.  
14. Advair Diskus 250-50 mcg/dose Disk with Device Sig: One (1) 
INH Inhalation twice a day: *** do not resume until acute asthma 
flare has resolved ***.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Major: 
acute asthma exacerbation 
hypoxia 
bilateral ___ tendonitis 
. 
Minor: 
atrial fibrillation 
dementia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with shortness of breath and weakness. You 
were treated for an asthma exacerbation with prednisone, 
nebulizers and an antibiotic. The antibiotic was discontinued 
and your steroid doses were decreased, because you developed 
tendonitis (calf pain) on this medication. 

Medication changes:
New: Combivent
     Prednisone
     Albuterol nebs if needed
.
Holding: Please hold Advair until after acute asthma flare has 
resolved.
 
Followup Instructions:
___